### PR TITLE
Erdős Problem 283

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

File: FormalConjectures/ErdosProblems/283.lean [hunk 1]
```diff
@@ -0,0 +1,66 @@
...
+
+namespace Erdos283
+
+/--
+The predicate that, given a polynomial, is true if the leading coefficient is positive and such that
+there exists no $d≥2$ with $d ∣ p(n)$ for all $n≥1$, then for allr all sufficiently large $m$,
+there exist integers $1≤n_1<\dots < n_k$ such that $$1=\frac{1}{n_1}+\cdots+\frac{1}{n_k}$$
+and $$m=p(n_1)+\cdots+p(n_k)$$?
+-/
+def erdos_283_condition (p : ℤ[X]) : Prop :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/283.lean]: I'd be tempted to go for something along the lines of this since we're in the `Erdos283` namespace
```suggestion
def Condition (p : ℤ[X]) : Prop :=
```
(alternatively one could call it `IsGood` as usual :D)

File: FormalConjectures/ErdosProblems/283.lean [hunk 2]
```diff
@@ -0,0 +1,66 @@
...
+  p.leadingCoeff > 2 → ¬ (∃ d ≥ 2, ∀ n ≥ 1, d ∣ p.eval n) →
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/283.lean]:
```suggestion
  p.leadingCoeff > 0 → ¬ (∃ d ≥ 2, ∀ n ≥ 1, d ∣ p.eval n) →
```

File: FormalConjectures/ErdosProblems/283.lean [hunk 3]
```diff
@@ -0,0 +1,66 @@
...
+- [Gr63] Graham, R. L., A theorem on partitions. J. Austral. Math. Soc. (1963), 435-441.
+-/
+
+open Filter Polynomial Finset
+
+namespace Erdos283
+
+/--
+The predicate that, given a polynomial, is true if the leading coefficient is positive and such that
+there exists no $d≥2$ with $d ∣ p(n)$ for all $n≥1$, then for allr all sufficiently large $m$,
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/283.lean]: I'd be tempted to change the wording to something along these lines
```suggestion
Given a polynomial `p`, the predicate that if the leading coefficient is positive and
there exists no $d≥2$ with $d ∣ p(n)$ for all $n≥1$, then for all sufficiently large $m$,
```

File: FormalConjectures/ErdosProblems/283.lean [hunk 4]
```diff
@@ -0,0 +1,66 @@
...
+@[category research open, AMS 11]
+theorem erdos_283 : (∀ p : ℤ[X], erdos_283_condition p) ↔ answer(sorry) := by
+  sorry
+
+
+/--
+Graham [Gr63] has proved this when $p(x)=x$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_283.variants.graham : erdos_283_condition X := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/283.lean]:
```suggestion
theorem erdos_283 : (∀ p : ℤ[X], Condition p) ↔ answer(sorry) := by
  sorry


/--
Graham [Gr63] has proved this when $p(x)=x$.
-/
@[category research solved, AMS 11]
theorem erdos_283.variants.graham : Condition X := by
```
